US07022707B2
4-(2-Oxo-2-phenylethoxy)benzyl piperazine-1-thiocarboxylate:
a solution of HCl in dioxane (4 M; 380 uL, 10 eq) was added to a solution of 4-(2-oxo-2-phenylethoxy)benzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate (72.1 mg) in ethyl acetate (2 mL) and the resultant mixture was shaken at ambient temperature for 16 h. The solvent was removed in vacuo and the resultant crude material was suspended in dichloromethane (4 mL) and shaken with MP—CO3 (1 g, 17 eq) at ambient temperature for 1 h. Purification by ion-exchange chromatography [SCX-2 (500 mg); DCM, MeOH, NH3—MeOH] afforded the desired product (44.7 mg, 79%) as a colourless oil: NMR δH(400 MHz; CDCl3) 2.82–2.86 (4H, m), 3.41–3.63 (4H, br s), 4.12 (2H, s), 5.23 (2H, s), 6.84–6.90 (2H, m), 7.24–7.29 (2H, m), 7.46–7.52 (2H, m) and 7.58–7.64 (1H, m); HPLC (XTERRA, 50/80, 235 nm) 97.7% (2.05 min).

reactant | HCl | Cl | ClH
reactant | dioxane | 4 M, 380 uL, 10 eq | O1CCOCC1 | C4H8O2
reactant | 4-(2-oxo-2-phenylethoxy)benzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate | 72.1 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(OCC1=CC=C(C=C1)OCC(C1=CC=CC=C1)=O)=S | C25H30N2O5S
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Oxo-2-phenylethoxy)benzyl piperazine-1-thiocarboxylate | 44.7 mg, 79% | N1(CCNCC1)C(OCC1=CC=C(C=C1)OCC(C1=CC=CC=C1)=O)=S | C20H22N2O3S
